US04620012
Benzyl spiro[bicyclo[2.2.1]heptane-2,3'-pyrrolidine]-5'-carboxylate hydrochloride
4.3 g of spiro[bicyclo[2.2.1]heptane-2,3'-pyrrolidine]-5'-carboxylic acid are esterified with 43 ml of thionyl chloride and 43 ml of benzyl alcohol is analogy to the procedure described in Example 6, yield 6.7 g,

reactant | spiro[bicyclo[2.2.1]heptane-2,3'-pyrrolidine]-5'-carboxylic acid | 4.3 g | N1CC2(CC1C(=O)O)C1CCC(C2)C1 | C11H17NO2
reactant | thionyl chloride | 43 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl alcohol | 43 ml | C(C1=CC=CC=C1)O | C7H8O
product | Benzyl spiro[bicyclo[2.2.1]heptane-2,3'-pyrrolidine]-5'-carboxylate hydrochloride | Cl.N1CC2(CC1C(=O)OCC1=CC=CC=C1)C1CCC(C2)C1 | InChI=1S/C18H23NO2.ClH/c20-17(21-11-13-4-2-1-3-5-13)16-10-18(12-19-16)9-14-6-7-15(18)8-14;/h1-5,14-16,19H,6-12H2;1H
